US07902219B2
To a solution of 2 g of 5-bromo-2-(2,5-dimethylpyrrol-1-yl)pyridine in 30 mL of tert-butyl methyl ether cooled to −78° C. are added slowly, under argon, 3.3 mL of a 2.5M solution of butyllithium in hexane, the mixture is then stirred for 40 minutes at about −70° C., followed by addition of a solution of 0.5 g of propionaldehyde in 5 mL of tert-butyl methyl ether. The mixture is stirred for 30 minutes at about −70° C., 20 mL of water are then added slowly and the resulting mixture is allowed to warm to 20° C. The aqueous phase is extracted with twice 100 mL of ethyl acetate and the organic phases are combined, dried and concentrated to dryness. The residue is purified by flash chromatography on a cartridge of 70 g of silica, eluting with dichloromethane and then with an 80/20 mixture of dichloromethane and ethyl acetate. The fractions containing the expected product are combined and concentrated under vacuum to give 1.07 g of 1-[6-(2,5-dimethylpyrrol-1-yl)pyridin-3-yl]propan-1-ol in the form of a yellow oil.

reactant | 5-bromo-2-(2,5-dimethylpyrrol-1-yl)pyridine | 2 g | BrC=1C=CC(=NC1)N1C(=CC=C1C)C | C11H11BrN2
reactant | butyllithium | C(CCC)[Li]
reactant | propionaldehyde | 0.5 g | C(CC)=O | C3H6O
reactant | water | 20 mL | O | H2O
solvent | tert-butyl methyl ether | 30 mL | COC(C)(C)C | C5H12O
solvent | hexane | CCCCCC | C6H14
solvent | tert-butyl methyl ether | 5 mL | COC(C)(C)C | C5H12O
product | 1-[6-(2,5-dimethylpyrrol-1-yl)pyridin-3-yl]propan-1-ol | 1.07 g | CC=1N(C(=CC1)C)C1=CC=C(C=N1)C(CC)O | C14H18N2O
